US06066639
Dimethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]imidazol-4-ylcarbonyl}-L-glutamate (109 mg g, 0.2 mmol) and 0.5N sodium hydroxide (1 mL) are allowed to react analogously to the method described in Example 19 to yield N-{2-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)ethyl]imidazol-4-ylcarbonyl}-L-glutamic acid (38 mg, 44%, mp >260° C.): 1H NMR (DMSOd6) d 12.35 (br s, 1H), 12.21 (br s, 1H), 9.77 (br s, 1H), 7.80 (br s, 1H), 7.50 (s, 1H), 6.27 (s, 1H), 5.92 (s, 2H), 4.37 (m, 1H), 3.17 (br d, 1H, J=10.6 Hz), 2.79-2.61 (m, 3H), 2.44 (m, 1H), 2.26 (m, 2H), 2.07-1.76 (m, 3 H), 1.68-1.59 (m, 3H).

reactant | Dimethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]imidazol-4-ylcarbonyl}-L-glutamate | 0.2 mmol, 109 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2NC=C(N2)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)O | C25H35N7O7
reactant | sodium hydroxide | 0.5N, 1 mL | [OH-].[Na+]
product | N-{2-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)ethyl]imidazol-4-ylcarbonyl}-L-glutamic acid | 38 mg, 44% | NC=1N=C(C2=C(N1)NCC(C2)CCC=2NC=C(N2)C(=O)N[C@@H](CCC(=O)O)C(=O)O)O | C18H23N7O6
